Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:6],2.65026282631
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.781122329130002
[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])[H:13],-7.423468976110001
[H:10].[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-5.24591485705
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[C:3][C:4]([H:5])([H:6])[H:7].[H:1][C:2],10.67833688
[C:1].[C:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-7.37768297183
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.86044263811
[H:1][O:2][C:3]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.2260624989599975
[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8].[H:9]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-2.0018614357700004
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:9][C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.84958340782
[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],1.70094476294
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5],0.8928618109209999
[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.29934371148
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:2](#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1],2.0594161925
[H:1][C:2]([H:3])=[C:5][O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-3.06423163741
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]#[C:5][O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:4],2.5385062775
[C:3]([H:4])[H:5].[O:1]=[C:2]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-5.17910691166
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.73626104718
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2],4.702919770319999
[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-5.20294862628
[O:1]=[C:2]([H:3])[C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9],2.97162020216
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],6.87321285741
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13]>>[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2],5.37583750272
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7].[O:8][H:9],6.465702512000001
[O:1][C:2]([H:3])([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1],4.19065198166
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2].[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9],7.01147853774
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.58609810165
[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.029764642490001
